US07759527B2
Synthesis of 2-hydroxy styrene (by monomode microwave irradiation method)
A mixture of 2-hydroxycinnamic acid or coumarin (2H-1-Benzopyran-2-one) (0.0083 mol), LiOH (10%, 4 mL), imidazole (1 mL) and dimethylsulphoxide were taken in a 100 ml round bottom flask fitted with reflux condenser. The flask was placed inside the microwave oven and irradiated (200 W, 180° C.) for 5-8 minutes. After completion of reaction, it was worked up and purified as in example V and provided viscous liquid. 58% yield; 1H NMR (CDCl3) δ 7.40 (1H, d, J=7.67 Hz), 7.14 (1H, m), 6.95 (2H, m), 6.80 (1H, d, J=8.07 Hz), 5.78 (1H, d, J=17.10 Hz), 5.37 (1H, d, J=11.20 Hz), 5.01 (1H, s); 13C NMR (CDCl3) δ 153.1, 132.2, 129.8, 128.4, 125.6, 121.8, 116.7 and 116.4.

reactant | 2-hydroxycinnamic acid | OC1=C(C=CC(=O)O)C=CC=C1 | C9H8O3
reactant | coumarin | 0.0083 mol | O1C(=O)C=CC2=CC=CC=C12 | C9H6O2
reactant | LiOH | 4 mL | [Li+].[OH-]
reactant | imidazole | 1 mL | N1C=NC=C1 | C3H4N2
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | 2-hydroxy styrene | 58% yield | OC1=C(C=C)C=CC=C1 | C8H8O
